US08754079B2
58.2 racemic Racemic 4-[4-Fluoro-2-((trans)-3-hydroxy-cyclohexyloxy)phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid
2.665 g lithium hydroxide were added to a mixture of 6.5 g racemic racemic 4-[4-fluoro-2-((trans)-3-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methylester in 350 ml water and 70 ml water. The mixture was stirred overnight. Then the mixture was acidified by addition of citric acid (10% in water) and concentrated. Water was added and the mixture was filtered. The solid was washed with water and dried.

reactant | lithium hydroxide | 2.665 g | [OH-].[Li+]
reactant | racemic racemic 4-[4-fluoro-2-((trans)-3-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methylester | 6.5 g | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2C[C@H](CCC2)O)S1)C | C21H22FN3O4S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 350 ml | O | H2O
solvent | water | 70 ml | O | H2O
product | racemic Racemic 4-[4-Fluoro-2-((trans)-3-hydroxy-cyclohexyloxy)phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2C[C@H](CCC2)O | C20H20FN3O4S
